US08008322B2
To 3.5 g of POBr3 melted at 45° C. is added 0.4 g of 3-amino-1H-pyrazolo[4,3-c]pyrid-4-ol, and the suspension is then maintained at 70° C. for 4 hours. The resulting mixture is allowed to cool and is hydrolysed, cautiously, with sodium bicarbonate solution. The mixture is extracted with ethyl acetate. The organic phase is isolated and dried over magnesium sulfate, filtered and then concentrated under reduced pressure. 0.33 g of 4-bromo-1H-pyrazolo[4,3-c]pyrid-3-ylamine is obtained in the form of a cream-coloured solid.

reactant | POBr3 | 3.5 g | P(=O)(Br)(Br)Br | Br3OP
reactant | 3-amino-1H-pyrazolo[4,3-c]pyrid-4-ol | 0.4 g | NC1=NNC2=C1C(=NC=C2)O | C6H6N4O
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
product | 4-bromo-1H-pyrazolo[4,3-c]pyrid-3-ylamine | 0.33 g | BrC1=NC=CC2=C1C(=NN2)N | C6H5BrN4
